Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Nausea, vomiting, abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP

 
History of Present Illness:
___ yo F PMHx s/p cholecystectomy on ___ who presented to ___ with nausea, vomiting and abdominal pain x ___ hours. 
The abdominal pain was worse in epigastrium and RUQ.  It was
associated with nausea and vomiting.  She denied fevers.  She
notes that the pain started the morning after she had dinner out
with her boyfriend and progressed over the course of the 
morning.
She did not drink any alcohol at dinner. The pain did not 
improve
so she went to ___.  In the ED, she was tachycardic
with an elevate lipase to 30,000 and transaminitis with AST/ALT
to ~400s.  She was given zosyn, approx. 4L fluid and transferred
to ___ for ERCP.  Of note, she was treated for pneumonia the
day after her cholecystectomy with levofloxacin and flagyl
(course completed on ___.

In our ED, she was given Zosyn, IVF, IV morphine for pain and
admitted to Medicine.

This AM, she reports being exhausted from poor sleep.  Abdominal
pain at ___ after IV morphine.  No nausea, vomiting.  Last BM
___ AM.

ROS: + cough, - NO LH/dizziness, CP, SOB, diarrhea, dysuria,
urinary urgency

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative.
 
Past Medical History:
Migraines
s/p cholecystectomy ___ (sx of nausea, vomiting, CT showed
cholecystitis)

 
Social History:
___
Family History:
Mother - hysterectomy for endometrial CA, HTN
Father - HLD

 
Physical ___:
ADMISSION EXAM:
===============
VITALS: Afebrile and vital signs stable (see eFlowsheet)
___: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, NABS, TTP in epigastrium and 
RUQ
with moderate palpation. No HSM.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
.
.
DISCHARGE EXAM:
================
___ 0750 Temp: 98.0 PO BP: 127/82 HR: 79 RR: 18 O2 sat: 97%
O2 delivery: RA 
___: NAD laying in bed
EYES: anicteric sclera, EOMI
ENT: MMM
CV: RR, no m/r/g, no peripheral edema
RESP: CTAB, normal WOB
GI: soft, not distended, mildly tender to moderate palpation 
over epigastrium, otherwise non-tender to palpation throughout 
the abdomen, bowel sounds are present
SKIN: no jaundice
NEURO: AAOx4, conversant w/ clear speech, no resting tremor
MSK: supine to sitting without assistance
PSYCH: calm, cooperative
.
.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 01:11AM   WBC-14.0* RBC-4.04 HGB-12.3 HCT-40.4 MCV-100* 
MCH-30.4 MCHC-30.4* RDW-14.0 RDWSD-51.7*
___ 01:11AM   NEUTS-80.0* LYMPHS-12.5* MONOS-6.4 EOS-0.1* 
BASOS-0.4 IM ___ AbsNeut-11.16* AbsLymp-1.74 AbsMono-0.90* 
AbsEos-0.01* AbsBaso-0.06
___ 01:11AM   PLT COUNT-492*
___ 01:11AM   HCG-<5
___ 01:11AM   TRIGLYCER-110 HDL CHOL-63 CHOL/HDL-4.0 
LDL(CALC)-168*
___ 01:11AM   CHOLEST-253*
___ 01:11AM   LIPASE-2700*
___ 01:11AM   GLUCOSE-127* UREA N-7 CREAT-1.0 SODIUM-148* 
POTASSIUM-5.3 CHLORIDE-110* TOTAL CO2-27 ANION GAP-11
___ 09:15AM   CALCIUM-9.7 PHOSPHATE-4.2 MAGNESIUM-2.3
___ 09:15AM   ALT(SGPT)-222* AST(SGOT)-231* ALK PHOS-422* 
TOT BILI-2.3*
.
.
Imaging:
=========
EUS and ERCP on ___
- EUS with confirmation of CBD stone
- ERCP with successful sphincterotomy and extraction of a large 
stone 

Discharge labs:
===============

___ 05:00AM BLOOD WBC-7.3 RBC-3.57* Hgb-11.2 Hct-35.5 
MCV-99* MCH-31.4 MCHC-31.5* RDW-13.2 RDWSD-48.9* Plt ___
___ 05:00AM BLOOD Neuts-64.6 ___ Monos-7.1 Eos-1.2 
Baso-0.4 Im ___ AbsNeut-4.72 AbsLymp-1.92 AbsMono-0.52 
AbsEos-0.09 AbsBaso-0.03
___ 05:00AM BLOOD Glucose-73 UreaN-10 Creat-0.8 Na-139 
K-4.5 Cl-102 HCO3-27 AnGap-10
___ 09:15AM BLOOD Calcium-9.7 Phos-4.2 Mg-2.3
___ 05:00AM BLOOD ALT-163* AST-82* AlkPhos-348* TotBili-1.0
.
.
 
Brief Hospital Course:
___ yo F w/ recent cholecystectomy on ___ who initially 
presented to ___ with nausea, vomiting, RUQ 
and epigastric pain, and was found to have choledocholithiasis 
with obstruction and elevated lipase and transaminitis c/f 
gallstone pancreatitis. Was started on empiric abx (Zosyn) and 
underwent urgent ERCP with sphincterotomy on ___ here at ___. 
She had resolution of GI symptoms and improving labs following 
ERCP. She was afebrile since initial presentation to ___, and 
there were no BCx drawn at ___ ED (per phone 
discussion with ___ Microbiology Lab), so our suspicion for 
cholangitis requiring ongoing antibiotics was very low. 
Antibiotics were stopped on day of discharge and she was 
counseled to seek immediate medical attention at an emergency 
department if she develops fevers or shaking chills anytime in 
the next 5 days. She was feeling well and tolerating a regular 
diet on the day of discharge with no GI symptoms. She has a PCP 
___ appointment scheduled for ___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aviane (levonorgestrel-ethinyl estrad) 0.1-20 mg-mcg oral 
ASDIR 
2. Sumatriptan Succinate 50 mg PO ONCE MR1:PRN migraine 

 
Discharge Medications:
1.  Aviane (levonorgestrel-ethinyl estrad) 0.1-20 mg-mcg oral 
ASDIR  
2.  Sumatriptan Succinate 50 mg PO ONCE MR1:PRN migraine  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gallstone pancreatitis
Choledocholithiasis with obstruction
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You came to the hospital with abdominal pain, nausea and 
vomiting.  You were found to have a stone in the common bile 
duct, which was causing irritation of the pancreas and liver. 
You underwent a successful ERCP procedure to remove the stone.

Please ensure you are taking in an adequate amount of fluids 
after discharge.  Please eat a low-fat diet and do not drink 
alcohol (as this can irritate the pancreas).

Please avoid taking aspirin, NSAIDs (e.g. Advil, ibuprofen, 
Aleve, naproxen, etc.) for the next 5 days, as these can 
increase your risk of bleeding.

Please plan to ___ with your primary care doctor at your 
upcoming appointment (see below for details).

It was a pleasure taking care of you at ___!
-- Your ___ Team
 
Followup Instructions:
___